### PR TITLE
[Merged by Bors] - feat(Topology/Algebra): use `Is*Apply` for `ContinuousLinearMap`

### PR DESCRIPTION
**Pull request by mcdoll**
This is the first in many PRs that use the new `Is*Apply` classes instead of structure specific `foo_apply` lemmas.
The main bulk of the PR is in Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean, everything else is just fixing errors.

For each `foo` in `zero`, `one`, `add`, `sub`, `neg`, smul` we do the following:
- add an instance `IsFooApply`
- rename `coe_foo` to `toLinearMap_foo`
- depreprecate `coe_foo`, `coe_foo'`, and `foo_apply`

We are rather conservative when it comes to the instances, in future PRs this will be used more.

For consistency, the same renaming has been applied to the `comp` variants. This resulted in a test being changed.

---

Note to maintainers: please don't put multiple PRs regarding `Is*Apply` on the queue, they will most likely create merge conflicts.

About the test: I don't understand what the test is really for. all of the changed proofs are still true by `rfl` and `norm_cast`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mcdoll** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/04e741d1ee6e5f2b4eb0a3e5cfe7615fba8ffeaf?reference=89d44072ff8960893f469c67f75280db4fe4023a) for 04e741d1ee6e5f2b4eb0a3e5cfe7615fba8ffeaf against 89d44072ff8960893f469c67f75280db4fe4023a are in. There are significant results. @mcdoll

- 🟥 `main` exited with code **1**

No significant changes detected.

**Comment by mcdoll** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/b458cd6f32d8e3254c6ece663362ae8c89a28de4?reference=89d44072ff8960893f469c67f75280db4fe4023a) for b458cd6f32d8e3254c6ece663362ae8c89a28de4 against 89d44072ff8960893f469c67f75280db4fe4023a are in. No significant results found. @mcdoll

- 🟥 `build//instructions`: **+52.3G** (**+0.03%**)

**Small changes (4✅, 7🟥)**

- ✅ `build/module/Mathlib.Analysis.CStarAlgebra.GelfandNaimarkSegal//instructions`: **-766.7M** (**-1.96%**)
- 🟥 `build/module/Mathlib.Analysis.Calculus.Deriv.Mul//instructions`: **+2.2G** (**+2.14%**)
- 🟥 `build/module/Mathlib.Analysis.Calculus.Deriv.Pow//instructions`: **+810.9M** (**+4.19%**)
- 🟥 `build/module/Mathlib.Analysis.Distribution.FourierMultiplier//instructions`: **+813.5M** (**+2.13%**)
- 🟥 `build/module/Mathlib.Analysis.Distribution.SchwartzSpace.Fourier//instructions`: **+1.2G** (**+1.44%**)
- ✅ `build/module/Mathlib.Analysis.InnerProductSpace.Reproducing//instructions`: **-2.8G** (**-3.27%**)
- ✅ `build/module/Mathlib.Analysis.InnerProductSpace.StarOrder//instructions`: **-1.5G** (**-6.16%**)
- 🟥 `build/module/Mathlib.Analysis.Normed.Operator.Compact.FredholmAlternative//instructions`: **+1.3G** (**+2.90%**)
- 🟥 `build/module/Mathlib.Analysis.SpecialFunctions.Pow.Deriv//instructions`: **+812.5M** (**+1.29%**)
- ✅ `build/module/Mathlib.Analysis.VonNeumannAlgebra.Basic//instructions`: **-811.9M** (**-3.85%**)
- 🟥 `build/module/Mathlib.NumberTheory.LSeries.HurwitzZetaValues//instructions`: **+534.5M** (**+2.62%**)

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean [hunk 1]
```diff
@@ -453,23 +458,18 @@ instance : AddMonoid (M₁ →SL[σ₁₂] M₂) where
...
 @[simp, norm_cast]
-theorem coe_sum {ι : Type*} (t : Finset ι) (f : ι → M₁ →SL[σ₁₂] M₂) :
+theorem toLinearMap_sum {ι : Type*} (t : Finset ι) (f : ι → M₁ →SL[σ₁₂] M₂) :
     ↑(∑ d ∈ t, f d) = (∑ d ∈ t, f d : M₁ →ₛₗ[σ₁₂] M₂) :=
   map_sum (AddMonoidHom.mk ⟨((↑) : (M₁ →SL[σ₁₂] M₂) → M₁ →ₛₗ[σ₁₂] M₂), rfl⟩ fun _ _ => rfl) _ _
 
-@[simp, norm_cast]
-theorem coe_sum' {ι : Type*} (t : Finset ι) (f : ι → M₁ →SL[σ₁₂] M₂) :
-    ⇑(∑ d ∈ t, f d) = ∑ d ∈ t, ⇑(f d) := by simp only [← coe_coe, coe_sum, LinearMap.coe_sum]
+@[deprecated (since := "2026-05-20")] protected alias sum_apply := _root_.add_apply
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean]:
```suggestion
@[deprecated (since := "2026-05-20")] protected alias sum_apply := _root_.sum_apply
```

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean [hunk 2]
```diff
@@ -489,18 +489,21 @@ infixr:90 " ∘SL " =>
...
 @[simp, norm_cast]
-theorem coe_comp (h : M₂ →SL[σ₂₃] M₃) (f : M₁ →SL[σ₁₂] M₂) :
+theorem toLinearMap_comp (h : M₂ →SL[σ₂₃] M₃) (f : M₁ →SL[σ₁₂] M₂) :
     (h ∘SL f : M₁ →ₛₗ[σ₁₃] M₃) = (h : M₂ →ₛₗ[σ₂₃] M₃) ∘ₛₗ (f : M₁ →ₛₗ[σ₁₂] M₂) :=
   rfl
 
-@[simp, norm_cast]
-theorem coe_comp' (h : M₂ →SL[σ₂₃] M₃) (f : M₁ →SL[σ₁₂] M₂) : ⇑(h ∘SL f) = h ∘ f :=
+@[norm_cast]
+theorem coe_comp (h : M₂ →SL[σ₂₃] M₃) (f : M₁ →SL[σ₁₂] M₂) : ⇑(h ∘SL f) = h ∘ f :=
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:497]: while I think the removal of `simp` here, and the `simp` and `grind` attributes on the `comp_apply` lemma below, is the right move, it does go against what we currently have for `LinearMap`. So, I would prefer (unless you have a good reason) to *not* do it in this PR. It would be better to do a global change in that direction for any bundled morphism.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean [hunk 3]
```diff
@@ -586,26 +589,24 @@ lemma cancel_left' {g : M₂ →SL[σ₂₃] M₃} {f₁ f₂ : M₁ →SL[σ₁
...
   rfl
 
-@[simp, norm_cast]
-theorem coe_mul' (f g : M₁ →L[R₁] M₁) : ⇑(f * g) = f ∘ g :=
-  rfl
+@[deprecated (since := "2026-05-20")] alias coe_mul := toLinearMap_mul
 
-theorem mul_apply (f g : M₁ →L[R₁] M₁) (x : M₁) : (f * g) x = f (g x) :=
-  rfl
+@[deprecated (since := "2026-05-20")] protected alias coe_mul' := FunLike.coe_mul
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:604]: I notice you are protecting some lemmas along the way. I suspect that increases the diff a lot? Especially for deprecated lemmas, it seems a suboptimal choice unless you have a reason.

However, given that it already builds, I won't have you change it. Just something to keep in mind for the future.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean [hunk 4]
```diff
@@ -618,14 +619,11 @@ theorem coe_pow (f : M₁ →L[R₁] M₁) (n : ℕ) : (↑(f ^ n) : M₁ →ₗ
...
   natCast n := n • (1 : M₁ →L[R₁] M₁)
 
-instance semiring [ContinuousAdd M₁] : Semiring (M₁ →L[R₁] M₁) where
-  __ := ContinuousLinearMap.monoidWithZero
-  __ := ContinuousLinearMap.addCommMonoid
-  left_distrib f g h := ext fun x => map_add f (g x) (h x)
-  right_distrib _ _ _ := ext fun _ => LinearMap.add_apply _ _ _
-  toNatCast := instNatCast
-  natCast_zero := zero_smul ℕ (1 : M₁ →L[R₁] M₁)
-  natCast_succ n := AddMonoid.nsmul_succ n (1 : M₁ →L[R₁] M₁)
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:628]: Do we know whether this instance was written like this on purpose for performance reasons? If the git blame has no meaningful changes within the last year, then I would guess the answer is likely "no".

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean [hunk 5]
```diff
@@ -877,16 +880,15 @@ instance addCommGroup : AddCommGroup (M →SL[σ₁₂] M₂) where
...
-
 @[simp, norm_cast]
-theorem coe_sub (f g : M →SL[σ₁₂] M₂) : (↑(f - g) : M →ₛₗ[σ₁₂] M₂) = f - g :=
+theorem toLinearMap_sub (f g : M →SL[σ₁₂] M₂) : (↑(f - g) : M →ₛₗ[σ₁₂] M₂) = f - g :=
   rfl
 
-@[simp, norm_cast]
-theorem coe_sub' (f g : M →SL[σ₁₂] M₂) : ⇑(f - g) = f - g :=
-  rfl
+@[deprecated (since := "2026-05-20")] protected alias sub_apply := _root_.sub_apply
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:887]: I'll note that protecting this one (and some others I've seen) makes sense of course.

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean [hunk 6]
```diff
@@ -182,7 +182,7 @@ theorem add_apply [TopologicalSpace F] [IsTopologicalAddGroup F] (𝔖 : Set (Se
 theorem sum_apply {ι : Type*} [TopologicalSpace F] [IsTopologicalAddGroup F] (𝔖 : Set (Set E))
     (t : Finset ι) (f : ι → E →SLᵤ[σ, 𝔖] F) (x : E) :
     (∑ d ∈ t, f d) x = ∑ d ∈ t, (f d) x :=
-  ContinuousLinearMap.sum_apply t f x
+  _root_.sum_apply (F := E →SL[σ] F) t f x
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:185]: Shouldn't the `_root_`. not be necessary if the CLM version is protected (and I agree it should be)?

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 7]
```diff
@@ -795,7 +795,7 @@ theorem derivSeries_apply_diag (n : ℕ) (x : E) :
     derivSeries p n (fun _ ↦ x) x = (n + 1) • p (n + 1) fun _ ↦ x := by
   simp only [derivSeries, compFormalMultilinearSeries_apply, changeOriginSeries,
     compContinuousMultilinearMap_coe, ContinuousLinearEquiv.coe_coe, LinearIsometryEquiv.coe_coe,
-    Function.comp_apply, ContinuousMultilinearMap.sum_apply, map_sum, coe_sum', Finset.sum_apply,
+    Function.comp_apply, ContinuousMultilinearMap.sum_apply, map_sum, _root_.sum_apply,
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:798]: likewise

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 8]
```diff
@@ -741,8 +741,8 @@ theorem hasFTaylorSeriesUpTo_iteratedFDeriv :
     ext v m
     simp only [ContinuousMultilinearMap.iteratedFDeriv, curryLeft_apply, sum_apply,
       iteratedFDerivComponent_apply, Finset.univ_sigma_univ,
-      Pi.compRightL_apply, ContinuousLinearMap.coe_sum', ContinuousLinearMap.coe_comp',
-      Finset.sum_apply, Function.comp_apply, linearDeriv_apply, Finset.sum_sigma']
+      Pi.compRightL_apply, _root_.sum_apply, ContinuousLinearMap.comp_apply, linearDeriv_apply,
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:744]: likewise

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean [hunk 9]
```diff
@@ -845,7 +845,7 @@ theorem factorial_smul (n : ℕ) :
   cases n
   · rw [factorial_zero, one_smul, h.iteratedFDeriv_zero_apply_diag]
   · rw [factorial_succ, mul_comm, mul_smul, ← derivSeries_apply_diag,
-      ← ContinuousLinearMap.smul_apply, factorial_smul' _ h.fderiv, iteratedFDeriv_succ_apply_right]
+      ← _root_.smul_apply, factorial_smul' _ h.fderiv, iteratedFDeriv_succ_apply_right]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:848]: likewise

**Review by j-loreaux — COMMENTED** [review]
Overall I think this is good. Just a few minor comments.

If you push me about the `comp_apply` issue I may acquiesce.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean (hunk 2 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:497]: Part of this whole chain of PRs is that in the end all of the attributes are the same, so yes it will be out of sync for a bit, but this is only temporary. It is rather annoying having to come back and fix up all of the attributes in the end.
I am thinking of getting composition also into a similar class, but that would involve introducing a notation type class for compositions and I assume that this should be only done once we see how much nicer this chain of PR makes things.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean (hunk 3 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:604]: The protecting is so that the deprecated name does not collide with the new root-space name, otherwise the diff would blow up (and I would have to write `_root_.add_apply` a lot).
Edit: yes, this probably should not be `protected`. I can change it if you want.

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean (hunk 4 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:628]: No idea, I would prefer to investigate the instances after this PR gets merged - it should be possible to simplify a lot here

File: Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean (hunk 6 above)
Comment (mcdoll) [reply Mathlib/Topology/Algebra/Module/Spaces/UniformConvergenceCLM.lean:185]: It collides with `UniformConvergenceCLM.sum_apply`, `norec` would fix it as well

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 7 above)
Comment (mcdoll) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:798]: collides with `Fintype.sum_apply`

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 8 above)
Comment (mcdoll) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:744]: `ContinuousMultilinearMap.sum_apply`

File: Mathlib/Analysis/Calculus/FDeriv/Analytic.lean (hunk 9 above)
Comment (mcdoll) [reply Mathlib/Analysis/Calculus/FDeriv/Analytic.lean:848]: `FormalMultilinearSeries.smul_apply`

File: Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Topology/Algebra/Module/ContinuousLinearMap/Basic.lean:604]: no, like I said, no reason to bother at this point.

**Comment by j-loreaux** [comment]
@mcdoll I think you missed my very first change, or else didn't push. I'm content with your responses to the rest.

bors d+

**Comment by mcdoll** [comment]
Thanks!
bors merge
